US04950810
The reaction was similarly carried out as Example 10 except that into a mixture of 32 g of p-cresol, 4 g of hypophosphorous acid and 6 g of α-chloropropionic acid was poured 36 g of styrene to give only 2-(α-methylbenzyl)-4-methylphenol, but not to detect other tert-butylated compounds.

reactant | p-cresol | 32 g | C1=CC(=CC=C1O)C | C7H8O
reactant | hypophosphorous acid | 4 g | [PH2](=O)O | H3O2P
reactant | α-chloropropionic acid | 6 g | ClC(C(=O)O)C | C3H5ClO2
reactant | styrene | 36 g | C=CC1=CC=CC=C1 | C8H8
product | 2-(α-methylbenzyl)-4-methylphenol | CC(C1=CC=CC=C1)C1=C(C=CC(=C1)C)O | C15H16O
